*Values
*Units for the values: V, mA, kOhm and mS
*R1 =5000 Ohm
*R2 = 1000 Ohm
*C=5*10⁻6 F

* forces current values to be saved
.options savecurrents

*************Circuito que mandei para o messenger*****************

***Fonte dependente (meti amplitude de 13.94 que equivale a 230/16.5)
Vs 1 0 0 sin(0 15.33 50 0 0 90)

***Envelope detector***
De 1 2 Default
R1 2 0 5k
C 2 0 5u

***Voltage regulator***
R2 2 3 1k
Dr1 3 4 Default
Dr2 4 5 Default
Dr3 5 6 Default
Dr4 6 7 Default
Dr5 7 8 Default
Dr6 8 9 Default
Dr7 9 10 Default
Dr8 10 11 Default
Dr9 11 12 Default
Dr10 12 13 Default
Dr11 13 14 Default
Dr12 14 15 Default
Dr13 15 16 Default
Dr14 16 17 Default
Dr15 17 18 Default
Dr16 18 19 Default
Dr17 19 20 Default
Dr18 20 21 Default
Dr19 21 22 Default
Dr20 22 23 Default
Dr21 23 24 Default
Dr22 24 25 Default
Dr23 25 0 Default


.model Default D
.op
.end

.tran 50m 250m

***Average***
.measure tran yavg AVG v(3) from=50m to=250m

*** max and min v0***
.measure tran ymax MAX v(3) from=50m to=250m
.measure tran ymin MIN v(3) from=50m to=250m
.control

*makes plots in color
set hcopypscolor=0
set color0=white
set color1=black
set color2=red
set color3=blue
set color4=violet
set color5=rgb:3/8/0
set color6=rgb:4/0/0

print (ymax-ymin)

*3)

*4) 
echo "********************************************"
echo  "Transient analysis"
echo "********************************************"
tran 1e-5 0.25 
plot  v(2) v(1)
hardcopy Ven.ps v(2) v(1)

plot  v(3)
hardcopy Vout.ps v(3)

*5)
plot v(3)-12
hardcopy v(o)-12.ps v(3)-12


quit
.endc


